US07157447B2
4-Fluoro-2-(2-morpholino-2-oxoethoxy)benzonitrile.
To a solution of intermediate 129, 4-fluoro-2-hydroxybenzonitrile, (685 mg, 5 mmol) in dimethylformamide (8 mL, Sure Seal; Aldrich) was added NaH (200 mg, 5 mmol; 60% oil dispersion; Aldrich), and the mixture stirred for 5 min under an anhydrous nitrogen atmosphere. To this was added 4-(2-chloroacetyl)morpholine (900 mg, 5.5 mmol, 1.1 eq.; Avocado Organics), and stirring continued at room temperature for 21 hrs. The reaction was quenched by careful addition of water (30 mL). The resulting mixture was extracted with CH2Cl2 (25 mL×2). The combined extracts were washed with brine, dried (MgSO4) and concentrated. The residue was triturated to obtain 1.10 g (4.17 mmol, Yield 83%) of the title compound as a white solid: 1H NMR (CDCl3, 500 MHz) δ ppm: 3.63 (2H, t, J=4 Hz, NCH2), 3.67 (1H, m, OCH), 3.72 (1H, m, OCH), 4.86 (2H, s, OCH2), 6.80–6.86 (2H, m, Ar—Hs), 7.61 (1H, dd, J=8.5 Hz, 6.1 Hz, Ar—H); 13C NMR (CDCl3, 125.77 Hz) δ ppm: 42.63, 46.04, 66.80, 68.33, 98.45, 98.47, 101.57, 101.79, 109.56, 109.74, 115.42, 135.48, 135.57, 161.26, 161.35, 114.79, 165.23, 167.28. HRMS calcd for C13H14N2O3F (M+H) 265.0988. found 265.0998.

reactant | 4-fluoro-2-hydroxybenzonitrile | 5 mmol, 685 mg | FC1=CC(=C(C#N)C=C1)O | C7H4FNO
reactant | NaH | 5 mmol, 200 mg | [H-].[Na+]
reactant | 4-(2-chloroacetyl)morpholine | 5.5 mmol, 900 mg, 1.1 eq. | ClCC(=O)N1CCOCC1 | C6H10ClNO2
solvent | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | 4-Fluoro-2-(2-morpholino-2-oxoethoxy)benzonitrile | 4.17 mmol, 1.10 g, Yield 83% | FC1=CC(=C(C#N)C=C1)OCC(=O)N1CCOCC1 | C13H13FN2O3
